US05239084
1.95 g of 4'-bromomethyl-N-methoxy-N-methyl-4-biphenylcarboxamide was treated with 20 mL of a 33% solution of dimethylamine in ethanol, stirred at room temperature for 24 hours, the reaction mixture was evaporated, the residue was dissolved in 50 mL of ethyl acetate and washed with 50 mL of sodium hydroxide solution and with 50 mL of a saturated sodium chloride solution. The organic phases were dried over magnesium sulphate and evaporated. The crude product was chromatographed on 100 mL of silica gel with methylene chloride/methanol 9:1. There was obtained 1.16 g (52%) of 4'-[(dimethylamino)methyl]-N-methoxy-N-methyl-4-biphenylcarboxamide as a colorless solid with a m.p. of 42°-43° C.

reactant | 4'-bromomethyl-N-methoxy-N-methyl-4-biphenylcarboxamide | 1.95 g | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N(C)OC | C16H16BrNO2
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 4'-[(dimethylamino)methyl]-N-methoxy-N-methyl-4-biphenylcarboxamide | 1.16 g, 52% | CN(C)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N(C)OC | C18H22N2O2
